US09388185B2
Step 1. 1-(2-{[t-Butyl(dimethyl)silyl]oxy}ethyl)-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperazine
A mixture of 1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperazine (0.1 g, 0.5 mmol, from Boron Molecular), (2-bromoethoxy)(tert-butyl)dimethylsilane (0.18 g, 0.75 mmol) and cesium carbonate (0.32 g, 1.0 mmol) in acetonitrile (2.0 mL) was stirred at 40° C. overnight. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in hexanes (0-30%) to afford the desired product (0.2 g, 88%). LCMS calculated for C24H44BN2O3Si (M+H)+: m/z=447.3. Found 447.3.

reactant | 1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperazine | 0.5 mmol, 0.1 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1CCNCC1)C | C16H25BN2O2
reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | 0.75 mmol, 0.18 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | cesium carbonate | 1.0 mmol, 0.32 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
product | 1-(2-{[t-Butyl(dimethyl)silyl]oxy}ethyl)-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperazine | 0.2 g, 88% | [Si](C)(C)(C(C)(C)C)OCCN1CCN(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C24H43BN2O3Si
